US07598267B2
Preparation of 4-[cyano(diphenyl)methyl]-1-(2-{[2-(methyloxy)ethyl]oxy}ethyl)-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 7, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)acetonitrile (0.0495 g, 0.164 mmol) and 1-bromo-2-{[2-(methyloxy)ethyl]oxy}ethane (0.040 mL, 0.265 mmol) in 2CH3CN/3CHCl3 (4.0 mL) were reacted to give the desired product (0.0431 g, 54.6%). EI-MS m/z 405 (M+) Rt (1.85 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)acetonitrile | 0.164 mmol, 0.0495 g | N12CCC(CC1)(CC2)C(C#N)(C2=CC=CC=C2)C2=CC=CC=C2 | C21H22N2
reactant | 1-bromo-2-{[2-(methyloxy)ethyl]oxy}ethane | 0.265 mmol, 0.040 mL | BrCCOCCOC | C5H11BrO2
product | 4-[cyano(diphenyl)methyl]-1-(2-{[2-(methyloxy)ethyl]oxy}ethyl)-1-azoniabicyclo[2.2.2]octane bromide | 0.0431 g, 54.6% | [Br-].C(#N)C(C12CC[N+](CC1)(CC2)CCOCCOC)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C26H33N2O2.BrH/c1-29-20-21-30-19-18-28-15-12-25(13-16-28,14-17-28)26(22-27,23-8-4-2-5-9-23)24-10-6-3-7-11-24;/h2-11H,12-21H2,1H3;1H/q+1;/p-1
